US09371320B2
E) N-methyl-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)piperidine-4-carboxamide
To a mixture of N-methyl-1-(4-bromophenyl)piperidine-4-carboxamide (680 mg), bis(pinacolato)diboron (700 mg) and potassium acetate (676 mg) in 1,4-dioxane (15 mL) was added dichlorobis(triphenylphosphine)palladium(II) (68 mg) under nitrogen atmosphere. The reaction mixture was stirred at 90° C. overnight. The insoluble substance was removed by the filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/petroleum ether) to give the title compound (400 mg).

reactant | N-methyl-1-(4-bromophenyl)piperidine-4-carboxamide | 680 mg | CNC(=O)C1CCN(CC1)C1=CC=C(C=C1)Br | C13H17BrN2O
reactant | bis(pinacolato)diboron | 700 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 676 mg | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 68 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-methyl-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)piperidine-4-carboxamide | 400 mg | CNC(=O)C1CCN(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C19H29BN2O3
